US07087599B2
A mixture of 7-methoxy-9a-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (32 mg, 0.14 mmol) and NaHCO3 (60 mg, 0.7 mmol) in CH2Cl2 (0.5 ml) was treated with bromine (0.008 mL, 0.154 mmol), and the resulting mixture was stirred at room temperature for 22 hours. The mixture was diluted with EtOAc (8 ml), washed with dilute aqueous Na2S2O3 (4 mL) and brine (4 ml), dried over MgSO4, filtered, and evaporated under vacuum to a yellow oil (43 mg). This material was purified by preparative layer chromatography on a 0.05×20×20 cm silica gel GF plate, developing twice with CH2Cl2, to afford 4-bromo-7-methoxy-9a-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (20 mg) as a gum. The product was contaminated with a trace of 4,6-dibromo-7-methoxy-9a-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one.

reactant | 7-methoxy-9a-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.14 mmol, 32 mg | COC1=CC=C2C3=CC(CCC3(CC2=C1)C)=O | C15H16O2
reactant | NaHCO3 | 0.7 mmol, 60 mg | C(=O)(O)[O-].[Na+]
reactant | bromine | 0.154 mmol, 0.008 mL | BrBr | Br2
solvent | CH2Cl2 | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 8 ml | CCOC(=O)C | C4H8O2
product | 4-bromo-7-methoxy-9a-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 20 mg | BrC=1C(CCC2(CC3=CC(=CC=C3C12)OC)C)=O | C15H15BrO2
